US06262089B1
a) Mixture of (E)-(2R,5S)- and -(2RS,5SR)-2,5-dibutyl-hex-3-enedioic acid diethyl ester
To a stirred solution of 2.0 g (9.99 mmol) trans-2-butene-1,4-dicarboxylic acid diethyl ester in 80 ml THF was added 2.54 g (59.9 mmol) anhydrous lithium chloride and the resulting suspension cooled to −78° C. 10.0 ml (20.0 mmol) of a 2 M solution of LDA in THF was added dropwise and stirring continued for 45 min. 2.2 ml (20.4 mmol) butyl bromide was then added and stirring continued for 15 min at −78° C., then 30 min at 0° C, and then 4 h at room temperature. The reaction was quenched by addition of saturated ammonium chloride solution and the mixture extracted three times with ether. The combined organic phases were washed successively with saturated ammonium chloride solution, water, and saturated brine, dried over sodium sulphate, and concentrated in vacuo. Successive flash chromatography (10% EtOAc in hexane for first column; then gradient: 10-100% toluene in cyclohexane for second column) afforded 509 mg (16%) of the title compound as a yellow oil. MS m/e (%): 330 ([M+NH4]+, 100).

reactant | trans-2-butene-1,4-dicarboxylic acid diethyl ester | 9.99 mmol, 2.0 g | C(C)OC(=O)C\C=C\CC(=O)OCC | C10H16O4
reactant | lithium chloride | 59.9 mmol, 2.54 g | [Cl-].[Li+]
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | butyl bromide | 20.4 mmol, 2.2 ml | C(CCC)Br | C4H9Br
reactant | THF | 80 ml | C1CCOC1 | C4H8O
product | (2RS,5SR)-2,5-dibutyl-hex-3-enedioic acid diethyl ester | 509 mg, 16% | C(C)OC(C(C=CC(C(=O)OCC)CCCC)CCCC)=O | C18H32O4
